US07396847B2
(5R)-3-{4′-[5-(Hydroxymethyl)-4,5-dihydroisoxazol-3-yl]-1,1′-biphenyl-4-yl}-5-(1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one
(5R)-3-{4′-[5-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-4,5-dihydroisoxazol-3-yl]-1,1′-biphenyl-4-yl}-5-(1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one (0.24 g, 0.45 mmol) was dissolved in THF (5 ml) at 25° C. Tetrabutylammoniumfluoride.3H2O (0.138 g, 0.495 mmol) was added as a solid and the reaction was stirred at 25° C. for 1.5 hours. The mixture was then diluted with ethyl acetate (50 ml) and poured into water. The layers were separated and the aqueous layer was extracted three times with ethyl acetate (3×50 ml). The organic layers were combined, dried over sodium sulfate and concentrated in vacuo. The resulting yellow oil was purified by silica flash chromatography with 5-10% methanol in dichloromethane as eluent, giving 0.05 g desired product.

reactant | (5R)-3-{4′-[5-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-4,5-dihydroisoxazol-3-yl]-1,1′-biphenyl-4-yl}-5-(1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one | 0.45 mmol, 0.24 g | [Si](C)(C)(C(C)(C)C)OCC1CC(=NO1)C1=CC=C(C=C1)C1=CC=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O | C28H35N5O4Si
reactant | Tetrabutylammoniumfluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (5R)-3-{4′-[5-(Hydroxymethyl)-4,5-dihydroisoxazol-3-yl]-1,1′-biphenyl-4-yl}-5-(1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one | 0.05 g | OCC1CC(=NO1)C1=CC=C(C=C1)C1=CC=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O | C22H21N5O4
